US06747023B1
5,6-Dimethyl-4,5,6,7-tetrahydrothiazolo[4,5-d]pyridazine
Under ice cooling, 4,5-bis(bromomethyl)thiazole (600 mg) and 1,2-dimethylhydrazine dihydrochloride (294 mg) were suspended in ethanol (20 ml). Triethylamine (1.23 ml) was added in one portion to the reaction mixture, followed by stirring at room temperature for 30 minutes and then, at 50° C. for 30 minutes. The solvent was distilled off and the residue was purified by chromatography on a silica gel column (5% methanol—methylene chloride), whereby the title compound (90 mg, 24%) was obtained.

reactant | 4,5-bis(bromomethyl)thiazole | 600 mg | BrCC=1N=CSC1CBr | C5H5Br2NS
reactant | 1,2-dimethylhydrazine dihydrochloride | 294 mg | Cl.Cl.CNNC
reactant | Triethylamine | 1.23 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5,6-Dimethyl-4,5,6,7-tetrahydrothiazolo[4,5-d]pyridazine | CN1N(CC2=C(C1)N=CS2)C | C7H11N3S
